* File: fulladder.pex.netlist.pex
* Created: Sat Nov 19 16:28:32 2022
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_FULLADDER%NET058 1 5 7 9 10 13 16 25
c19 25 0 0.00741373f
c20 16 0 0.00142644f
c21 13 0 0.00302812f
c22 9 0 0.0547843f
c23 5 0 0.0758887f
c24 1 0 0.0184313f
r25 16 22 0.192522
r26 14 25 4.7687
r27 13 22 0.306923
r28 13 14 89.3538
r29 9 10 5.10286
r30 9 16 1.05857
r31 5 7 145.86
r32 3 5 38.22
r33 1 3 4.35808
r34 1 25 37.44
.ends

.subckt PM_FULLADDER%A 3 7 11 13
c13 13 0 0.00400185f
c14 11 0 0.00826725f
c15 7 0 0.0198006f
c16 3 0 0.0433905f
r17 11 15 6.09375
r18 11 13 89.3538
r19 5 15 2.22942
r20 5 7 29.64
r21 1 15 2.22942
r22 1 3 103.74
.ends

.subckt PM_FULLADDER%NET06 1 6 8 10 12 13 14 17 20 22 24 25 26 28 29
c60 29 0 0.00540323f
c61 28 0 0.0610558f
c62 17 0 0.127442f
c63 14 0 0.00396468f
c64 13 0 0.0471864f
c65 6 0 0.11116f
c66 1 0 0.0708029f
r67 28 29 67.4143
r68 25 26 5.10286
r69 25 28 4.64143
r70 22 24 99.84
r71 20 22 141.96
r72 17 20 56.94
r73 15 24 67.08
r74 13 15 4.35808
r75 13 14 109.2
r76 10 12 113.88
r77 8 10 141.96
r78 6 8 63.96
r79 4 14 4.35808
r80 4 12 53.04
r81 3 6 60.84
r82 2 29 1.73169
r83 1 3 4.35808
r84 1 2 152.1
.ends

.subckt PM_FULLADDER%COUT 1 2 7
c9 1 0 0.0567751f
r10 2 7 3.14857
r11 1 7 4.99429
.ends

.subckt PM_FULLADDER%NET20 1 2 7 8
c15 8 0 0.00198234f
c16 7 0 0.00750401f
c17 2 0 0.0108917f
c18 1 0 0.0112724f
r19 7 9 0.21666
r20 7 8 1.87286
r21 3 8 0.214913
r22 2 9 1.07667
r23 1 3 1.14
.ends

.subckt PM_FULLADDER%NET37 1 2 7 8
c19 8 0 0.00248677f
c20 7 0 0.0090298f
c21 2 0 0.00886815f
c22 1 0 0.00974979f
r23 7 9 0.212317
r24 7 8 2.00857
r25 3 8 0.212317
r26 2 9 1.11286
r27 1 3 1.11286
.ends

.subckt PM_FULLADDER%NET16 1 2 7 8
c17 8 0 0.0015997f
c18 7 0 0.00683244f
c19 2 0 0.0070759f
c20 1 0 0.00719317f
r21 7 9 0.212696
r22 7 8 2.16308
r23 3 8 0.212696
r24 2 9 0.76
r25 1 3 0.76
.ends

.subckt PM_FULLADDER%NET41 1 2 7 8
c17 8 0 0.00230898f
c18 7 0 0.00881461f
c19 2 0 0.0128339f
c20 1 0 0.0133114f
r21 7 9 0.212317
r22 7 8 2.00857
r23 3 8 0.212317
r24 2 9 0.814286
r25 1 3 0.814286
.ends

.subckt PM_FULLADDER%NET27 3 7 9 13 17 22 23 24 27 33 38 39 43 51
c63 51 0 0.00621929f
c64 43 0 0.00416613f
c65 39 0 0.00423027f
c66 38 0 0.00435988f
c67 33 0 0.00272368f
c68 27 0 0.00463374f
c69 24 0 0.0134121f
c70 23 0 0.0184867f
c71 22 0 0.00748914f
c72 21 0 0.00353016f
c73 17 0 0.0788007f
c74 13 0 0.0545612f
c75 9 0 0.0281176f
c76 7 0 0.0811839f
c77 3 0 0.0436202f
r78 49 51 32.76
r79 43 51 4.99089
r80 42 43 58.9875
r81 39 49 4.99089
r82 38 39 58.9875
r83 33 42 0.10179
r84 29 38 0.183603
r85 27 44 5.60625
r86 26 27 72.6
r87 24 42 0.111484
r88 24 26 3.40812
r89 23 33 1.71
r90 22 29 0.59375
r91 15 44 2.22942
r92 15 17 176.28
r93 11 44 2.22942
r94 11 13 131.04
r95 10 21 0.179698
r96 9 44 2.4375
r97 9 10 43.875
r98 5 21 4.78783
r99 5 7 146.64
r100 1 21 4.78783
r101 1 3 74.1
.ends

.subckt PM_FULLADDER%CIN 3 5 7 9 12 15 17 21 24 26 30 34
c43 34 0 0.00621368f
c44 30 0 0.00978486f
c45 26 0 0.0137393f
c46 21 0 0.00287851f
c47 15 0 0.151242f
c48 12 0 0.00178818f
c49 3 0 0.131549f
r50 27 34 7.2
r51 26 27 82.9714
r52 24 26 0.701538
r53 21 30 4.63532
r54 20 24 1.52
r55 20 21 82.9714
r56 15 17 298.74
r57 13 34 1.45522
r58 13 15 44.46
r59 12 30 37.44
r60 7 9 113.88
r61 5 7 141.96
r62 3 5 63.96
r63 1 12 4.35808
r64 1 3 39.78
.ends

.subckt PM_FULLADDER%NET50 3 7 9 10 11 12 21 33 40
c68 40 0 0.0107395f
c69 37 0 2.75852e-19
c70 36 0 0.00135702f
c71 33 0 0.0136357f
c72 21 0 0.0280484f
c73 12 0 0.0594522f
c74 11 0 0.0476356f
c75 10 0 0.028047f
c76 9 0 0.0263659f
c77 7 0 0.0923808f
c78 3 0 0.0291726f
r79 34 40 6.76
r80 33 34 89.3538
r81 31 37 0.263077
r82 31 33 1.81231
r83 27 37 0.137222
r84 23 37 0.137222
r85 22 36 0.0501704
r86 21 37 0.263077
r87 21 22 9.06154
r88 17 36 0.151219
r89 13 36 0.151219
r90 12 27 5.13
r91 11 17 7.51857
r92 10 23 2.66
r93 9 13 3.74571
r94 5 40 1.98872
r95 5 7 170.82
r96 1 40 1.98872
r97 1 3 44.46
.ends

.subckt PM_FULLADDER%S 1 2 7
c12 1 0 0.0563088f
r13 2 7 3.14857
r14 1 7 4.77714
.ends

.subckt PM_FULLADDER%NET031 3 5 7 9 11 12 15 17 19 21 26 27 29 30 38
c58 38 0 0.0744381f
c59 30 0 0.00465514f
c60 29 0 0.0602687f
c61 25 0 0.00229595f
c62 15 0 0.111802f
c63 12 0 0.00331174f
c64 11 0 0.0378511f
c65 3 0 0.103458f
r66 30 38 4.25918
r67 29 30 82.9714
r68 26 27 5.10286
r69 26 29 4.68214
r70 24 25 2.83063
r71 24 38 137.8
r72 19 21 99.84
r73 17 19 141.96
r74 15 17 56.94
r75 13 25 1.28291
r76 13 15 66.3
r77 11 25 2.83063
r78 11 12 87.1
r79 7 9 113.88
r80 5 7 141.96
r81 3 5 63.96
r82 1 12 4.4051
r83 1 3 59.28
.ends

.subckt PM_FULLADDER%B 3 7 13 17
c14 17 0 0.00830531f
c15 13 0 0.00409981f
c16 7 0 0.0199834f
c17 3 0 0.042795f
r18 11 17 6.09375
r19 11 13 89.3538
r20 5 17 2.22942
r21 5 7 29.64
r22 1 17 2.22942
r23 1 3 103.74
.ends

.subckt PM_FULLADDER%GND! 1 2 3 4 5 6 7 8 15 22 30 33 41 54 60 65 75 93
c98 95 0 0.00283365f
c99 94 0 0.00282736f
c100 93 0 0.00165853f
c101 92 0 0.00359336f
c102 91 0 0.00178285f
c103 90 0 0.00282215f
c104 89 0 0.00283365f
c105 75 0 0.0319006f
c106 65 0 0.0130015f
c107 60 0 0.0497145f
c108 54 0 0.00601347f
c109 41 0 0.057393f
c110 30 0 0.0300432f
c111 22 0 0.018379f
c112 15 0 0.0189896f
c113 8 0 0.0415418f
c114 7 0 0.0375244f
c115 6 0 0.00972918f
c116 5 0 0.0203697f
c117 4 0 0.00796764f
c118 3 0 0.00856182f
c119 2 0 0.0360465f
c120 1 0 0.0400565f
r121 84 95 0.100685
r122 80 95 0.103985
r123 76 94 0.100685
r124 75 95 0.100685
r125 71 94 0.103985
r126 66 93 0.160909
r127 65 67 0.212317
r128 65 66 1.73111
r129 61 92 0.125868
r130 60 94 0.100685
r131 57 93 0.0418175
r132 56 92 0.0746364
r133 55 91 0.0141807
r134 54 93 0.160909
r135 54 55 1.56222
r136 50 91 0.197273
r137 46 91 0.197273
r138 42 90 0.100685
r139 41 92 0.125868
r140 37 90 0.103985
r141 31 89 0.100685
r142 31 33 0.76
r143 30 90 0.100685
r144 26 89 0.103985
r145 22 89 0.100685
r146 15 84 0.5225
r147 15 75 0.2375
r148 15 76 1.59917
r149 15 60 0.205833
r150 15 61 2.86583
r151 15 41 0.221667
r152 15 42 3.23
r153 15 30 0.205833
r154 15 33 0.775833
r155 15 22 0.205833
r156 8 80 5.61857
r157 7 71 5.34714
r158 6 67 0.696667
r159 5 57 0.696667
r160 5 56 2.47
r161 4 50 0.841429
r162 3 46 0.895714
r163 2 37 5.13
r164 1 26 5.61857
.ends

.subckt PM_FULLADDER%VDD! 7 8 9 10 11 12 13 14 15 22 31 40 43 55 61 63 76 93
c79 96 0 0.00295698f
c80 95 0 0.00289319f
c81 94 0 0.00377571f
c82 93 0 0.00167317f
c83 92 0 0.00138666f
c84 91 0 0.00289319f
c85 90 0 0.00295698f
c86 76 0 0.0342168f
c87 63 0 0.0561027f
c88 61 0 0.0147669f
c89 55 0 0.00673559f
c90 40 0 0.0584265f
c91 31 0 0.0316066f
c92 22 0 0.0151679f
c93 15 0 0.0182602f
c94 14 0 0.0561267f
c95 13 0 0.0308514f
c96 12 0 0.0126936f
c97 11 0 0.0314843f
c98 10 0 0.0220214f
c99 9 0 0.0104177f
c100 8 0 0.0297308f
c101 7 0 0.0551704f
r102 85 96 0.087517
r103 81 96 0.122195
r104 77 95 0.087517
r105 76 96 0.087517
r106 72 95 0.122195
r107 64 94 0.109853
r108 63 95 0.087517
r109 62 93 0.197273
r110 61 68 0.21666
r111 61 62 2.22571
r112 58 94 0.0925806
r113 57 93 0.0141807
r114 56 92 0.0418175
r115 55 93 0.197273
r116 55 56 2.00857
r117 51 92 0.160909
r118 47 92 0.160909
r119 41 91 0.087517
r120 41 43 1.72357
r121 40 94 0.109853
r122 36 91 0.122195
r123 32 90 0.087517
r124 31 91 0.087517
r125 27 90 0.122195
r126 22 90 0.087517
r127 15 85 0.38
r128 15 76 0.162857
r129 15 77 1.43857
r130 15 63 0.162857
r131 15 64 2.47
r132 15 40 0.162857
r133 15 43 1.07214
r134 15 31 0.162857
r135 15 32 1.33
r136 15 22 0.230714
r137 14 81 6.21571
r138 13 72 3.66429
r139 12 68 0.316667
r140 11 58 1.66778
r141 11 57 2.51222
r142 10 51 3.23
r143 9 47 0.407143
r144 8 36 3.66429
r145 7 27 6.21571
.ends

.subckt PM_FULLADDER%NET059 3 5 8 9 10 11 19 21
c20 21 0 0.0141445f
c21 19 0 0.00651865f
c22 11 0 0.00344195f
c23 9 0 0.0538427f
c24 8 0 0.0040878f
c25 3 0 0.0717589f
r26 19 21 4.7687
r27 18 19 89.3538
r28 11 18 0.150611
r29 9 10 5.10286
r30 9 11 1.00429
r31 8 21 37.44
r32 3 5 145.86
r33 1 8 4.35808
r34 1 3 27.3
.ends

